US06867218B2
(E)-(S)-3-{4-[3-(2′,3′-Dichloro-biphenyl-4-yl)-allyloxy]-phenyl}-2-ethoxy-propionic acid ethyl ester
The title compound was prepared from (E)-3-(4-bromo-phenyl)-acrylic acid ethyl ester and 2,3-dichlorobenzene boronic acid by a sequence analogous to that described in example 52a-c.

reactant | (E)-3-(4-bromo-phenyl)-acrylic acid ethyl ester | C(C)OC(\C=C\C1=CC=C(C=C1)Br)=O | C11H11BrO2
reactant | 2,3-dichlorobenzene boronic acid | ClC1=C(C=CC=C1Cl)B(O)O | C6H5BCl2O2
product | (E)-(S)-3-{4-[3-(2′,3′-Dichloro-biphenyl-4-yl)-allyloxy]-phenyl}-2-ethoxy-propionic acid ethyl ester | C(C)OC([C@H](CC1=CC=C(C=C1)OC\C=C\C1=CC=C(C=C1)C1=C(C(=CC=C1)Cl)Cl)OCC)=O | C28H28Cl2O4
